US07781478B2
A mixture of 150 mg (0.61 mmol) of 6-methoxycarbonyl-1-ethyl-1H-indole-3-carboxamide in diglyme (3.6 mL), and bromoacetaldehyde dimethyl acetal (430 μL, 3.7 mmol) is heated at 125° C. for 2 h. The reaction mixture is cooled and partitioned in H2O and EtOAc. The organic phase is dried and concentrated and the product is purified by silica gel chromatography (EtOAc/CH2Cl2 5-10%). The product containing fractions are combined and concentrated and the solid is triturated with hexanes to yield methyl 1-ethyl-3-oxazol-2-yl-1H-indole-6-carboxylate (75 mg, 46%) as a yellow solid.

reactant | 6-methoxycarbonyl-1-ethyl-1H-indole-3-carboxamide | 0.61 mmol, 150 mg | COC(=O)C1=CC=C2C(=CN(C2=C1)CC)C(=O)N | C13H14N2O3
reactant | bromoacetaldehyde dimethyl acetal | 3.7 mmol, 430 μL | COC(CBr)OC | C4H9BrO2
solvent | diglyme | 3.6 mL | COCCOCCOC | C6H14O3
product | methyl 1-ethyl-3-oxazol-2-yl-1H-indole-6-carboxylate | 75 mg, 46% | C(C)N1C=C(C2=CC=C(C=C12)C(=O)OC)C=1OC=CN1 | C15H14N2O3
